US09382197B2
To the crude ethyl 4-(1-(hydroxyimino)-2-methylpropyl)benzoate in a 100-mL round-bottom flask was added acetic acid (8 mL) and zinc dust (1.33 g, 20.3 mmol). The mixture was stirred at rt for 1 h, then filtered through a pad of Celite. The pad was rinsed with ethanol (50 mL). Combined filtrate was concentrated to give a solid. To the solid residue was added ammonium hydroxide (20 mL) and DCM (50 mL). The solution was stirred at rt for 10 min. After separation, the aqueous layer was extracted with DCM (2×50 mL). Combined organic phases were washed with brine, dried (MgSO4), and concentrated to give an oil. Flash column chromatography (EtOAc:hexanes:TEA, 20:80:2 to 100:0:2) afforded ethyl 4-(1-amino-2-methylpropyl)benzoate (0.563 g, 55%) as a clear oil. LC-MS: (FA) ES+ 222; 1H NMR (CDCl3, 300 MHz) δ7.99 (d, J=8.3 Hz, 2H), 7.36 (d, J=8.5 Hz, 2H), 4.37 (q, J=7.2 Hz, 2 μl), 3.68 (d, J=7.0 Hz, 1H), 1.86 (m, 1H), 1.39 (t, J=7.0 Hz, 3H), 0.96 (d, J=7.0 Hz, 3H), 0.77 (d, J=7.0 Hz, 3H).

reactant | ethyl 4-(1-(hydroxyimino)-2-methylpropyl)benzoate | ON=C(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H17NO3
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc | 20.3 mmol, 1.33 g | [Zn] | Zn
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-(1-amino-2-methylpropyl)benzoate | 0.563 g, 55% | NC(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H19NO2
